US04731470
2-(Dimethylaminomethyl)-5-chloro-1-(2,3-dichloro-4-methoxyphenyl)-1-pentanone (6.1 g, 0.019 mole) was added in portions to well-stirred concentrated sulfuric acid (25 ml). The temperature rose to 39° C. after which the mixture was stirred at ambient temperature for an additional two hours. The mixture was poured into crushed ice and the resulting precipitate removed by filtration, washed with water, dried and then recrystallized from a mixture of tetrahydrofuran and ether to give 2-(3-chloropropyl)-6,7-dichloro-2,3-dihydro-5-methoxy-1H-inden-1-one, 5 g, m.p. 130°-132° C.

reactant | 2-(Dimethylaminomethyl)-5-chloro-1-(2,3-dichloro-4-methoxyphenyl)-1-pentanone | 0.019 mole, 6.1 g | CN(C)CC(C(=O)C1=C(C(=C(C=C1)OC)Cl)Cl)CCCCl | C15H20Cl3NO2
reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
product | 2-(3-chloropropyl)-6,7-dichloro-2,3-dihydro-5-methoxy-1H-inden-1-one | ClCCCC1C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O | C13H13Cl3O2
